* /home/fossee/esim-workspace/astablemultivibratoric555/astablemultivibratoric555.cir

.include lm555n.sub
* u2  a ic
.ic v(a)=0
x1 gnd a out net-_r1-pad1_ net-_c2-pad1_ a net-_r1-pad2_ net-_r1-pad1_ lm555n
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
r2  net-_r1-pad2_ a 10k
r3  out gnd 1k
c1  a gnd 100p
c2  net-_c2-pad1_ gnd 0.01u
v1 net-_r1-pad1_ gnd  dc 5
* u3  out plot_v1
* u1  a plot_v1
* u2  a ic
.tran 50e-09 5e-06 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(a)
.endc
.end
