* /home/fossee/updatedexamples/bjt_cb_config/bjt_cb_config.cir

q1  net-_q1-pad1_ gnd net-_q1-pad3_ npn
v1 vcb gnd  dc 12
r1  net-_r1-pad1_ net-_q1-pad1_ 1k
r2  net-_q1-pad3_ ie 1k
* u_ic1  vcb net-_r1-pad1_ plot_i2
i1 ie gnd  dc 20m
v_u_ic1 vcb net-_r1-pad1_ 0
.dc v1 -1e-00 5e-00 0.02e-00 i1 -1e-03 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_ic1)
.endc
.end
