* /home/fossee/updatedexamples/bjt_ce_config/bjt_ce_config.cir

q1  net-_q1-pad1_ net-_q1-pad2_ gnd npn
v1 vce gnd  dc 0
r1  net-_r1-pad1_ net-_q1-pad1_ 1k
r2  net-_q1-pad2_ ib 1k
* u_ic1  vce net-_r1-pad1_ plot_i2
i1 ib gnd  dc 20m
v_u_ic1 vce net-_r1-pad1_ 0
.dc v1 0e-00 5e-00 0.05e-00 i1 0e-03 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_ic1)
.endc
.end
