* /home/fossee/esim-workspace/clippercircuit/clippercircuit.cir

v1  in gnd sine(0 5 50 0 0)
d1  gnd out d
d2  out gnd d
r1  in out 1k
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
