* /home/fossee/updatedexamples/fet_amplifier/fet_amplifier.cir

c1  net-_c1-pad1_ in 1u
c6  net-_c6-pad1_ gnd 0.1u
v2 net-_r3-pad1_ gnd  dc 10
j1  out net-_c1-pad1_ net-_c6-pad1_ njf
r3  net-_r3-pad1_ out 3k
r2  gnd net-_c1-pad1_ 1meg
r4  gnd net-_c6-pad1_ 470
v1  in gnd sine(0 10m 1k 0 0)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
