* /home/fossee/updatedexamples/fet_characteristic/fet_characteristic.cir

j1  id net-_j1-pad2_ gnd njf
vds1 net-_u_id1-pad1_ gnd  dc 10
vgs1 net-_j1-pad2_ gnd  dc 0
* u_id1  net-_u_id1-pad1_ id plot_i2
v_u_id1 net-_u_id1-pad1_ id 0
.dc vds1 0e-00 50e-00 10e-00 vgs1 0e-03 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_id1)
.endc
.end
