* /home/fossee/updatedexamples/frequencyresponse_jfet/frequencyresponse_jfet.cir

c1  net-_c1-pad1_ in 1u
c6  net-_c6-pad1_ gnd 0.1u
v2 net-_r3-pad1_ gnd  dc 20
j1  out net-_c1-pad1_ net-_c6-pad1_ njf
r3  net-_r3-pad1_ out 3k
r2  gnd net-_c1-pad1_ 1meg
r4  gnd net-_c6-pad1_ 470
* u1  in plot_v1
v1 in gnd  ac 0.1m 0
* u3  out plot_log
* u2  out plot_phase
* u4  out plot_db
.ac dec 100 10KHz 100KHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot log(out)
plot phase(out)
plot db(out)
.endc
.end
