* /home/fossee/updatedexamples/fullwaverectifier_scr/fullwaverectifier_scr.cir

.include scr.sub
x1 gnd pulse out2 scr
v1  in1 in2 sine(0 200 100 0 0)
v2  pulse gnd pulse(0 5 2m 0 0 1m 5m)
d1  in1 out1 d
d3  in2 out1 d
d2  gnd in1 d
d4  gnd in2 d
r1  out1 out2 100
* u1  in1 in2 plot_v2
* u3  pulse plot_v1
* u2  out1 out2 plot_v2
.tran 20e-06 20e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1,in2)
plot v(pulse)
plot v(out1,out2)
.endc
.end
