* /home/fossee/esim-workspace/rc/rc.cir

r1  in out 1k
c1  out gnd 10u
v1  in gnd pwl(0m 0 0.5m 5 50m 5 50.5m 0 100m 0)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
