* /home/fossee/esim-workspace/oscillator/oscillator.cir

.include NPN.lib
q1 out net-_q1-pad2_ net-_c3-pad1_ Q2N2222
r5  net-_r2-pad1_ out 8.6k
r2  net-_r2-pad1_ net-_q1-pad2_ 56k
r6  net-_c3-pad1_ gnd 1.5k
r3  net-_q1-pad2_ gnd 8.2k
r1  net-_c1-pad2_ net-_q1-pad2_ 3k
c3  net-_c3-pad1_ gnd 20u
c1  net-_c1-pad1_ net-_c1-pad2_ 1500p
c2  net-_c2-pad1_ net-_c1-pad1_ 1500p
c4  out net-_c2-pad1_ 1500p
r4  net-_c1-pad1_ gnd 3k
r7  net-_c2-pad1_ gnd 3k
v1 net-_r2-pad1_ gnd  dc 22
* u1  out plot_v1
.tran 100e-06 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
